US07705053B2
(S)-3-t-butoxy-2-{4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]benzoylamino}propionic acid (25 mg), 2-hydroxyethylamine (9 μL), benzotriazol-1-ol monohydrate (19 mg), and (3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (25 mg) were dissolved in 2 mL of N,N-dimethylformamide, and then, N,N-diisopropylethyl-amine (53 μL) was added to the solution. The solution was stirred overnight at room temperature. Then, 2-hydroxyethylamine (9 μL), benzotriazol-1-ol monohydrate (19 mg), and (3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride (25 mg) were added again to the solution, and the solution was further stirred overnight. After removal of the solvent under reduced pressure, to the obtained residue was added water, and the mixture was extracted three times with dichloromethane. The respective organic layers were combined, whereafter the combined organic layer was washed with a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. The anhydrous sodium sulfate was separated by filtration, and washed with dichloromethane. The filtrate and the washings were combined, and dichloromethane was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography to obtain 44 mg (76%) of N-[(S)-2-t-butoxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]-benzamide.

reactant | (S)-3-t-butoxy-2-{4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]benzoylamino}propionic acid | 25 mg | C(C)(C)(C)OC[C@@H](C(=O)O)NC(C1=CC(=C(C=C1)OC)\C=C\C1=CC=C(C=C1)OC(F)(F)F)=O | C24H26F3NO6
reactant | 2-hydroxyethylamine | 9 μL | OCCN | C2H7NO
reactant | benzotriazol-1-ol monohydrate | 19 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | (3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 25 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethyl-amine | 53 μL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-hydroxyethylamine | 9 μL | OCCN | C2H7NO
reactant | benzotriazol-1-ol monohydrate | 19 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | (3-dimethylaminopropyl)-ethylcarbodiimide hydrochloride | 25 mg | Cl.CN(CCCN=C=NCC)C
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | N-[(S)-2-t-butoxy-1-(2-hydroxyethylcarbamoyl)ethyl]-4-methoxy-3-[(E)-2-(4-trifluoromethoxyphenyl)vinyl]-benzamide | 44 mg, 76% | C(C)(C)(C)OC[C@@H](C(NCCO)=O)NC(C1=CC(=C(C=C1)OC)\C=C\C1=CC=C(C=C1)OC(F)(F)F)=O | C26H31F3N2O6
